US03966748
Preparation of 4-[3,6-Dihydro-4-(3-methyl-5-isoxazolyl)-1(2H)-pyridyl]-4'-fluoro-butyrophenone
A 1.65 g. portion of 3,6-dihydro-α-(p-fluorophenyl)-4(3-methyl-5-isoxazolyl)-1(2H)-pyridine butanol, prepared as described in Example 10, in 35 ml. of acetic acid is stirred at room temperature. A 30 ml. portion of chromic acid in acetic acid (prepared by dissolving 1.1 gm of chromium oxide in 50 ml. of acetic acid and 10 ml. of water) is added dropwise and the mixture is stirred for 3 hours and then allowed to stand overnight. A few drops of methanol are added and sufficient solid sodium bicarbonate to neutralize the solution. Water is also added. The mixture is extracted 3 times with ether. The extracts are dried over magnesium sulfate, filtered and evaporated yielding a pink solid which is recrystallized twice from methanol, m.p. 96°-98°C.

reactant | 3,6-dihydro-α-(p-fluorophenyl)-4(3-methyl-5-isoxazolyl)-1(2H)-pyridine butanol | FC1=CC=C(C=C1)C(CCCN1CCC(=CC1)C1=CC(=NO1)C)O | C19H23FN2O2
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | acetic acid | 50 ml, 1.1 gm | C(C)(=O)O | C2H4O2
catalyst | methanol | A few drops | CO | CH4O
product | 4-[3,6-Dihydro-4-(3-methyl-5-isoxazolyl)-1(2H)-pyridyl]-4'-fluoro-butyrophenone | CC1=NOC(=C1)C=1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C19H21FN2O2
